Inverter

*library file
.lib '/usr/cots/synopsys/UniversityLibrary/SAED32_EDK/tech/hspice/saed32nm.lib' TT
.include '/usr/cots/synopsys/UniversityLibrary/SAED32_EDK/lib/stdcell_rvt/hspice/saed32nm_rvt.spf'

*post the results
.option post
.global vdd gnd

*define model
.model n105 nmos level=54
.model p105 pmos level=54

*source declaration
vvdd vdd 0 vdd   *syntax:vname pos_node neg_node voltage_value
vgnd gnd 0 0v

M1 vo vi gnd gnd n105 W=300n L=l
M2 vo vi vdd vdd p105 W=300n L=l

* * Q6
* M1 vo vi gnd gnd n105 W=nwidth_mult L=l
* M2 vo vi vdd vdd p105 W=pwidth_mult L=l

* * load inverter 1
* M3 load1_out vo gnd gnd n105 W=300n L=l
* M4 load1_out vo vdd vdd p105 W=p_w L=l

* * load inverter 2
* M5 load2_out vo gnd gnd n105 W=300n L=l
* M6 load2_out vo vdd vdd p105 W=p_w L=l

*define parameters
.param vdd = 1.05
.param l = 100n
.param trf = 6p *initial rise/fall time of the transient source
.param del = 1u 
.param pw = 1u
.param per = 2u
* .param p_w = 600n * (found in part 4) 
* .param pwidth_mult = 600n *(q6)
* .param nwidth_mult = 300n *(q6)

*define analysis voltage

*vinput vi gnd pulse 0 vdd del trf trf pw per
* vinput vi gnd pulse 0 vdd 5u 0.5u 0.5u 4.5u 10u

* Q1: Construct a CMOS inverter
*Use ‘6p’ for all the rise time and fall time of the input pulse

vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u

* .tran 1p 6u
.tran 1p 20u
.measure tran outrise 
+trig v(vo) val='vdd*0.1' rise=trf
+targ v(vo) val='vdd*0.9' rise=trf

.measure tran outfall 
+trig v(vo) val='vdd*0.9' fall=trf
+targ v(vo) val='vdd*0.1' fall=trf


*Q2: Then measure the rise time and fall time of the output signal and propagation delay

*vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u

*.tran 1p 6u
*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf

*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

*Q3: DC characteristic of the CMOS inverter
* Length of the NMOS and PMOS as a constant: 100n; 
* Width of the NMOS as a constant: 300n. 
* DC analysis the VIN (x axis) from 0 to 1.05v with a step of 0.01v
* sweeping the Width of PMOS from 100n to 1000n with a step of 100n
*vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u
*.dc vinput 0 1.05 0.01 sweep p_w 100n 1000n 100n
*.PROBE vout

*Q4: Width value of the PMOS that has the Switching Threshold closest to half
* of the Vdd (Vdd/2). 
*vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u
*.dc vinput 0 1.05 0.01 sweep p_w 100n 1000n 100n

*Q5: characteristics of the CMOS inverter: delay(Tp) as a function of Vdd. 
* Now set the Width of the PMOS to be the value you found in part 4.
* Width = 600n (value from part 4)
*Use the HSPICE .alter command to change the value of the parameter ‘vdd’ so that
*the supply voltage will change: 0.5:0.1:1.05

*vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u

*start to use .alter to run the hspice code multiple times
* ONE
*.alter
*.param vdd = 0.5

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

* TWO
*.alter
*.param vdd = 0.6

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

* THREE
*.alter
*.param vdd = 0.7

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

* FOUR
*.alter
*.param vdd = 0.8

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

* FIVE
*.alter
*.param vdd = 0.9

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf

* SIX
*.alter
*.param vdd = 1.05

*.tran 1p 40u
*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=trf
*+targ v(vo) val='vdd*0.5' fall=trf
*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=trf
*+targ v(vo) val='vdd*0.5' rise=trf


* *Q6: 

* vinput vi gnd pulse 0 vdd 5u trf trf 4.5u 10u

* *start to use .alter to run the hspice code multiple times
* * ONE
* .alter
* .param nwidth_mult = 300n
* .param pwidth_mult = 600n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

* * TWO
* .alter
* .param nwidth_mult = 600n
* .param pwidth_mult = 1200n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

* * THREE
* .alter
* .param nwidth_mult = 900n
* .param pwidth_mult = 1800n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

* * FOUR
* .alter
* .param nwidth_mult = 1200n
* .param pwidth_mult = 2400n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

* * FIVE
* .alter
* .param nwidth_mult = 1500n
* .param pwidth_mult = 3000n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

* * SIX
* .alter
* .param nwidth_mult = 1800n
* .param pwidth_mult = 3600n

* .tran 1p 40u
* .measure tran tphl 
* +trig v(vi) val='vdd*0.5' rise=trf
* +targ v(vo) val='vdd*0.5' fall=trf
* .measure tran tplh 
* +trig v(vi) val='vdd*0.5' fall=trf
* +targ v(vo) val='vdd*0.5' rise=trf

**********************************************************

*.tran 1p 6u
*.tran 1p 40u
*.measure tran outrise 
*+trig v(vo) val='vdd*0.1' rise=2
*+targ v(vo) val='vdd*0.9' rise=2

*.measure tran outfall 
*+trig v(vo) val='vdd*0.9' fall=2
*+targ v(vo) val='vdd*0.1' fall=2

*.measure tran tphl 
*+trig v(vi) val='vdd*0.5' rise=2
*+targ v(vo) val='vdd*0.5' fall=2

*.measure tran tplh 
*+trig v(vi) val='vdd*0.5' fall=2
*+targ v(vo) val='vdd*0.5' rise=2

.end